US06211199B1
111.1 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-methanesulfonyloxypropyl)-2-oxopyrrolidine (0.37 g, 0.73 mmol), triethylamine (0.45 mL, 3.23 mmol), and (1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt (0.40 g, 0.68 mmol) in acetonitrile (10 mL). Heat at 80° C. After 18 hours, cool, dilute the reaction mixture with dichloromethane and extract with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with dichloromethane/methanol/concentrate aqueous ammonium hydroxide 95/5/0.05 to give the title compound: Rf=0.65 (silica gel, dichloromethane/methanol/concentrate aqueous ammonium hydroxide 95/5/0.1).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-methanesulfonyloxypropyl)-2-oxopyrrolidine | 0.73 mmol, 0.37 g | COC=1C=C(CN2C(C(CC2)(CCCOS(=O)(=O)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C25H32FNO7S
reactant | triethylamine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | (1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | 0.68 mmol, 0.40 g | I.C(=O)(OCC)CCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CC2=CC=C(C=C2)F)CCCN2CCC(CC2)NC2=NC3=C(N2CCCC(=O)OCC)C=CC=C3)=O)C=C(C1OC)OC | C42H54FN5O6
